US07585868B2
Synthesis of 2-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-1H-indole-5-ol (BA24dd).
BA24 (3-(4-fluoro-3-methoxyphenyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine, 30 mg, 0.10 mmol) was dissolved in a solution of formic acid (4.5 ml, 10 equivalents) and HCl (0.45 ml, 1 equivalent). The reaction was heated and stirred for one hour under an argon atmosphere. The reaction was then concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA24dd. ESI-MS (M+H)+ m/z calcd 309.1, found 309.1.

reactant | tert-butyl 2-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-5-(benzyloxy)-1H-indole-1-carboxylate | 0.10 mmol, 30 mg | NC1=C2C(=NC=N1)N(N=C2C=2N(C1=CC=C(C=C1C2)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)C(C)C | C28H30N6O3
reactant | formic acid | 4.5 ml, 10 equivalents | C(=O)O | CH2O2
reactant | HCl | 0.45 ml, 1 equivalent | Cl | ClH
product | 2-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-1H-indole-5-ol | NC1=C2C(=NC=N1)N(N=C2C=2NC1=CC=C(C=C1C2)O)C(C)C | C16H16N6O
